US07767660B2
Step 3: methyl (7R)-7-[(tert-butoxycarbonyl)amino]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate
A solution of methyl 3-cyclohexyl-2-(2-hydroxyphenyl)-1H-indole-6-carboxylate (prepared as described in international patent application WO2006/046030) (0.15 M) in DMF was treated with CsF (4 eq) in one portion; the resulting mixture was stirred for 20 min at RT then treated via dropping funnel over 30 min with a solution of tert-butyl (2R)-2-({[(4-nitrophenyl)sulfonyl]oxy}methyl)aziridine-1-carboxylate (1.3 eq) in DMF (0.5 M). The resulting solution was stirred at RT overnight. The reaction mixture was then placed into an ice bath and powdered KOtBu (1.4 eq) added slowly to the reaction mixture. After 1.5 h, the reaction was quenched with sat. aq. NH4Cl and extracted into EtOAc. The combined organic layers were washed with water and brine, before being dried over Na2SO4, filtered and concentrated in vacuo. The crude material was purified by FC (PE/EtOAc 80:20) affording the product as an off-white foam (85%). (ES+) m/z 505 (M+H)+

reactant | methyl 3-cyclohexyl-2-(2-hydroxyphenyl)-1H-indole-6-carboxylate | 0.15 M | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)OC)C1=C(C=CC=C1)O | C22H23NO3
reactant | CsF | 4 eq | [F-].[Cs+]
reactant | tert-butyl (2R)-2-({[(4-nitrophenyl)sulfonyl]oxy}methyl)aziridine-1-carboxylate | 1.3 eq | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1N(C1)C(=O)OC(C)(C)C | C14H18N2O7S
reactant | KOtBu | 1.4 eq | CC(C)(C)[O-].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 M | CN(C)C=O | C3H7NO
product | methyl (7R)-7-[(tert-butoxycarbonyl)amino]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | 85% | C(C)(C)(C)OC(=O)N[C@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)OC)C=CC=C2 | C30H36N2O5
